US05182279
3-Amino-5-fluoro-2-nitrobenzo[b]thiophene
A solution of 3-bromo-5-fluoro-2-nitrobenzo[b]thiophene (1.51 g, 5.47 mmol) in 10 ml of 2-methoxyethanol was placed in a steel bomb. 2-Methoxyethanol (15 ml) was saturated with ammonia at 0° C. and the obtained solution was added to the steel bomb. The bomb was sealed, heated to 90° C. for 16 hours and cooled in an ice bath. After ammonia gas was sufficiently released, the reaction mixture was poured onto ice water (250 ml). The precipitate was filtered off, washed with water and dried. Yield 1.06 g (91%) of 3-amino-5-fluoro-2-nitrobenzo[b]thiophene.

reactant | 3-bromo-5-fluoro-2-nitrobenzo[b]thiophene | 5.47 mmol, 1.51 g | BrC=1C2=C(SC1[N+](=O)[O-])C=CC(=C2)F | C8H3BrFNO2S
reactant | ammonia | N | H3N
solvent | 2-methoxyethanol | 10 ml | COCCO | C3H8O2
solvent | 2-Methoxyethanol | 15 ml | COCCO | C3H8O2
product | 3-Amino-5-fluoro-2-nitrobenzo[b]thiophene | NC=1C2=C(SC1[N+](=O)[O-])C=CC(=C2)F | C8H5FN2O2S
